US06265575B1
Part A. 6-Benzyloxy-2-[6-[2-(1-pyrrolidinyl)ethoxy]pyrid-3-yl]benzo[b]thiophen-3-yl 3-Methoxy-4-[(1-pyrrolidinyl)methyl]phenyl Ketone
A −78° C. solution of 5-bromopyrid-2-yl 2-(1-pyrrolidinyl)ethyl ether (3.25 g, 12.0 mmol) in 40 mL of anhydrous THF was treated with n-BuLi (8.1 mL, 13.0 mmol, 1.6 M in hexanes). After 1 h, a slurry of MgBr2 [freshly prepared from Mg (365 mg, 15.0 mmol) and 1.3 mL of 1,2-dibromoethane] in 20 mL of anhydrous THF was added. The reaction mixture was stirred at −78° C. for an additional 10 min, and then the cold bath was removed. After 45 min, the Grignard reagent was added dropwise via a cannula to a solution of 6-benzyloxy-2-(dimethylamino)benzo[b]thiophen-3-yl 3-methoxy-4-[(1-pyrrolidinyl)methyl]phenyl ketone (5 g, 10.0 mmol) in 50 mL of THF at 0° C. The resulting mixture was stirred for 2 h at 0° C. and then was allowed to warm to ambient temperature. After 5 h, the reaction mixture was poured into 200 mL of saturated aqueous NH4Cl. The layers were separated, and the aqueous phase was extracted with CHCl3 (3×50 mL). The combined organic phases were dried over Na2SO4, filtered, and concentrated in vacuo. Purification by PrepLC (SiO2; gradient of 85:10:5 hexanes-THF-TEA to 75:20:5 hexanes-THF-TEA) afforded 2.9 g (4.48 mmol; 45%) of the title product as a viscous orange oil.

reactant | 5-bromopyrid-2-yl 2-(1-pyrrolidinyl)ethyl ether | 12.0 mmol, 3.25 g | N1(CCCC1)CCOC1=NC=C(C=C1)Br | C11H15BrN2O
reactant | n-BuLi | 13.0 mmol, 1.6 M, 8.1 mL | [Li]CCCC
reactant | MgBr2 | [Mg+2].[Br-].[Br-]
reactant | 1,2-dibromoethane | 1.3 mL | BrCCBr | C2H4Br2
reactant | 6-benzyloxy-2-(dimethylamino)benzo[b]thiophen-3-yl 3-methoxy-4-[(1-pyrrolidinyl)methyl]phenyl ketone | 10.0 mmol, 5 g | COC=1C=C(C=CC1CN1CCCC1)C(=O)C=1C2=C(SC1N(C)C)C=C(C=C2)OCC2=CC=CC=C2 | C30H32N2O3S
reactant | NH4Cl | 200 mL | [NH4+].[Cl-]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 6-Benzyloxy-2-[6-[2-(1-pyrrolidinyl)ethoxy]pyrid-3-yl]benzo[b]thiophen-3-yl 3-Methoxy-4-[(1-pyrrolidinyl)methyl]phenyl Ketone | COC=1C=C(C=CC1CN1CCCC1)C(=O)C=1C2=C(SC1C=1C=NC(=CC1)OCCN1CCCC1)C=C(C=C2)OCC2=CC=CC=C2 | C39H41N3O4S
